US06713499B2
N-[7-(Benzyl-methyl-amino)-4-methoxy-benzothiazol-2-yl]-2-bromo-isonicotinamide
From 4-methoxy-N7-methyl-benzothiazole-2,7-diamine with potassium carbonate and benzyl bromide in DMF, then treatment with 2-bromo-isonicotinic acid, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (%): 485 (M{81Br}+H+, 98), 483 (M{79Br}+H+, 100).

reactant | 4-methoxy-N7-methyl-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)NC | C9H11N3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-bromo-isonicotinic acid | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N-[7-(Benzyl-methyl-amino)-4-methoxy-benzothiazol-2-yl]-2-bromo-isonicotinamide | C(C1=CC=CC=C1)N(C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)Br)=O)OC)C | C22H19BrN4O2S
